US05114960
0.36 g (1.13 mmol) of methyl trans-3-(4-chlorophenyl)-5,6,7,8-tetrahydro-4-methyl-4H-cyclohept[d]isoxazole-7-carboxylate in 35 ml of dioxane was stirred at room temperature for 1 hour with 15 ml of 1N aqueous sodium hydroxide solution. Water was added and the solution was partially evaporated. Additional water was added to give a solution which was then acidified with 1N hydrochloric acid. The precipitate was filtered off, washed with water and dried to give 0.278 g of trans-3-(4-chlorophenyl)-5,6,7,8-tetrahydro-4-methyl-4H-cyclohept[d]isoxazole-7-carboxylic acid of melting point 154°-155° C.

reactant | methyl trans-3-(4-chlorophenyl)-5,6,7,8-tetrahydro-4-methyl-4H-cyclohept[d]isoxazole-7-carboxylate | 1.13 mmol, 0.36 g | ClC1=CC=C(C=C1)C1=NOC2=C1[C@@H](CC[C@H](C2)C(=O)OC)C | C17H18ClNO3
reactant | sodium hydroxide | 1N, 15 ml | [OH-].[Na+]
reactant | Water | O | H2O
reactant | hydrochloric acid | 1N | Cl | ClH
solvent | dioxane | 35 ml | O1CCOCC1 | C4H8O2
product | trans-3-(4-chlorophenyl)-5,6,7,8-tetrahydro-4-methyl-4H-cyclohept[d]isoxazole-7-carboxylic acid | 0.278 g | ClC1=CC=C(C=C1)C1=NOC2=C1[C@@H](CC[C@H](C2)C(=O)O)C | C16H16ClNO3
